US05610177
c) Methyl bis-(cyclohexylmethyl)acetyl-(α-methyl-D-tryptophan)
To a solution of 0.69 g (3.0 mmol) of methyl α-methyl-D-tryptophan in 20 mL THF was added 0.8 g (3.0 mmol) of bis-(cyclohexylmethyl)acetyl chloride followed by 0.5 mL of Et3N and the suspension stirred at room temperature for 3 days. The mixture was diluted with EtOAc and washed with 1N citric acid, H2O, and saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left 1.4 g of the crude product as a foam. Chromatography on silica gel, eluting with CHCl3 /EtOAc (95/5) gave 0.91 g (65% yield) of the product as a white foam. The structure was confirmed by NMR and mass spectroscopy.

reactant | methyl α-methyl-D-tryptophan | 3.0 mmol, 0.69 g | CN[C@](CC1=CNC2=CC=CC=C12)(C(=O)O)C | C13H16N2O2
reactant | bis-(cyclohexylmethyl)acetyl chloride | 3.0 mmol, 0.8 g | C1(CCCCC1)CC(C(=O)Cl)CC1CCCCC1 | C16H27ClO
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl bis-(cyclohexylmethyl)acetyl-(α-methyl-D-tryptophan) | 0.91 g, 65% yield | CC(C(=O)N[C@](CC1=CNC2=CC=CC=C12)(C(=O)O)C)(CC1CCCCC1)CC1CCCCC1 | C29H42N2O3
